US07560558B2
Compound 440: 3-[6-Methoxy-7-(2-piperidin-1-yl-ethoxy)-quinolin-4-yloxy]-2-methyl-[1,8]naphthyridine
3-[7-Hydroxy-6-methoxy-quinolin-4-yloxy]-2-methyl-[1,8]naphthyridine (67 mg) was dissolved in N,N-dimethylformamide (5 ml) to prepare a solution. Potassium carbonate (225 mg) and 1-bromo-2-chloroethane (0.15 ml) were added to the solution, and the mixture was stirred at room temperature overnight. Potassium carbonate (300 mg) and piperidine (0.5 ml) were added to the reaction solution, and the mixture was further stirred at 70° C. overnight. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-methanol to give the title compound (69 mg, yield 78%) (2 steps).

reactant | 3-[7-Hydroxy-6-methoxy-quinolin-4-yloxy]-2-methyl-[1,8]naphthyridine | 67 mg | OC1=C(C=C2C(=CC=NC2=C1)OC=1C(=NC2=NC=CC=C2C1)C)OC | C19H15N3O3
reactant | Potassium carbonate | 225 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 0.15 ml | BrCCCl | C2H4BrCl
reactant | Potassium carbonate | 300 mg | C([O-])([O-])=O.[K+].[K+]
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[6-Methoxy-7-(2-piperidin-1-yl-ethoxy)-quinolin-4-yloxy]-2-methyl-[1,8]naphthyridine | 69 mg, yield 78% | COC=1C=C2C(=CC=NC2=CC1OCCN1CCCCC1)OC=1C(=NC2=NC=CC=C2C1)C | C26H28N4O3
